US08314232B2
N1-{3-fluoro-4-[(6-(methyloxy)-7-{[3-(4-morpholinyl)propyl]oxy}-4-quinolinyl)oxy]phenyl}-N1-(4-fluorophenyl)-1,1-cyclopropanedicarboxamide
4-Chloro-6-(methyloxy)-7-{[3-(4-morpholinyl)propyl]oxy}quinoline (60 mg, 0.18 mmol), N1-(3-Fluoro-4-hydroxyphenyl)-N1-(4-fluorophenyl)-1,1-cyclopropanedicarboxamide, Pd(OAc)2 (4 mg, 0.018 mmol), racemic-2-(di-tert-butylphosphino)-1,1′-binaphthyl (14.2 mg, 0.035 mmol), and K3PO4 (57 mg, 0.27 mmol) were added into a vial equipped with a stirring bar and purged with N2. Anisole (400 μL) was added and the open vial was placed under a stream of N2 for ˜2 min. The vial was capped and the mixture was heated to 110° C. for 32 min, at which time the reaction was found to be complete.

reactant | 4-Chloro-6-(methyloxy)-7-{[3-(4-morpholinyl)propyl]oxy}quinoline | 0.18 mmol, 60 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C17H21ClN2O3
reactant | N1-(3-Fluoro-4-hydroxyphenyl)-N1-(4-fluorophenyl)-1,1-cyclopropanedicarboxamide | FC=1C=C(C=CC1O)N(C(=O)C1(CC1)C(=O)N)C1=CC=C(C=C1)F | C17H14F2N2O3
reactant | racemic-2-(di-tert-butylphosphino)-1,1′-binaphthyl | 0.035 mmol, 14.2 mg | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
reactant | K3PO4 | 0.27 mmol, 57 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(OAc)2 | 0.018 mmol, 4 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N1-{3-fluoro-4-[(6-(methyloxy)-7-{[3-(4-morpholinyl)propyl]oxy}-4-quinolinyl)oxy]phenyl}-N1-(4-fluorophenyl)-1,1-cyclopropanedicarboxamide | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)N(C(=O)C1(CC1)C(=O)N)C1=CC=C(C=C1)F | C34H34F2N4O6
